US04326055
In a manner analogous to that described in Example 1, from [(1,1,3,3-tetramethyl-5-indanyl)methyl]-triphenylphosphonium chloride and 4-ethoxycarbonyl-benzaldehyde there can be obtained p-[(E)-2-(1,1,3,3-tetramethyl-5-indanyl)vinyl]-benzoic acid ethyl ester of melting point 151°-152° C.

reactant | [(1,1,3,3-tetramethyl-5-indanyl)methyl]-triphenylphosphonium chloride | [Cl-].CC1(CC(C2=CC(=CC=C12)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C
reactant | 4-ethoxycarbonyl-benzaldehyde | C(C)OC(=O)C1=CC=C(C=O)C=C1 | C10H10O3
product | p-[(E)-2-(1,1,3,3-tetramethyl-5-indanyl)vinyl]-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)\C=C\C=1C=C2C(CC(C2=CC1)(C)C)(C)C)=O | C24H28O2
